US04529544
A mixture of 8.97 g (0.04 mole) of tetrahydro-3-benzyl-5,5-dimethyl-1,3-oxazin-2-one and 0.084 g (0.002 mole) of lithium chloride was heated to 245° C. at a pressure of 100 torr in a 25-ml flask equipped with a mechanical stirrer and distillation head. The receiver was cooled with dry ice as the product slowly distilled. After 5 hours, an additional 0.084 g of lithium chloride was added and heating was continued for an additional 25 hours. At this time, 5.84 g (85 percent yield) of pure 1-benzyl-3,3-dimethylazetidine had collected. The material was redistilled at bp 107° C.-108° C. (15 mm).

reactant | tetrahydro-3-benzyl-5,5-dimethyl-1,3-oxazin-2-one | 0.04 mole, 8.97 g | C(C1=CC=CC=C1)N1C(OCC(C1)(C)C)=O | C13H17NO2
reactant | lithium chloride | 0.002 mole, 0.084 g | [Cl-].[Li+]
product | 1-benzyl-3,3-dimethylazetidine | 5.84 g, 85 percent yield | C(C1=CC=CC=C1)N1CC(C1)(C)C | C12H17N
